US04870187
1,1-Dimethylethyl 6-formyl-2,2-dimethyl-1,3-dioxane-4-acetate
Ozone was bubbled into a solution of 1,1-dimethylethyl 2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetate (3.0 g, 9 mmol) in 100 mL of methylene chloride at -78° C. until a blue color persisted. Nitrogen was then bubbled into the solution without cooling until the color disappeared. The temperature had risen to -20° C. Methyl sulfide (3 mL) was added and the solution stirred for 18 hours. The solvent was removed in vacuo and the residue purified by chromatography on silica eluting with 20% ethyl acetate in hexane to give 1.78 g of the title compound. Recrystallization from pentane gave the compound as a white solid; m.p.=71°-73° C.

reactant | Ozone | O=[O+][O-] | O3
reactant | 1,1-dimethylethyl 2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetate | 9 mmol, 3.0 g | CC1(OC(CC(O1)CC(=O)OC(C)(C)C)C=CC1=CC=CC=C1)C | C20H28O4
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 6-formyl-2,2-dimethyl-1,3-dioxane-4-acetate | 1.78 g | C(=O)C1CC(OC(O1)(C)C)CC(=O)OC(C)(C)C | C13H22O5
